US05981521
1,2,3,4-Tetrahydro-1-ethyl-6,7-dimethoxyisoquinoline was prepared by a procedure analogous to that described in example 4 for 1,2,3,4-tetrahydro-1-cyclopropyl-6,7-dimethoxyisoquinoline but substituting in the first step propionyl chloride for cyclopropyl-carbonyl chloride.

reactant | 1,2,3,4-tetrahydro-1-cyclopropyl-6,7-dimethoxyisoquinoline | C1(CC1)C1NCCC2=CC(=C(C=C12)OC)OC | C14H19NO2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | cyclopropyl-carbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 1,2,3,4-Tetrahydro-1-ethyl-6,7-dimethoxyisoquinoline | C(C)C1NCCC2=CC(=C(C=C12)OC)OC | C13H19NO2
